US07557114B2
(d) 5-(2,2,2-Trifluoro-ethyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
To a stirred solution of 0.71 mmol 5-(2,2-difluoro-vinyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester in 5 nml DMSO and 0.25 ml water was added 4.98 mmol potassium fluoride and the mixture was heated at 120° C. for 2 h. The mixture was cooled to room temperature and then taken up in THF and washed sequentially with water and with brine. The organic phase was then dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a white solid (48% yield). MS (m/e): 246.3 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-(2,2-difluoro-vinyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 0.71 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=C(F)F | C15H17F2NO2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | water | 0.25 ml | O | H2O
reactant | potassium fluoride | 4.98 mmol | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 5-(2,2,2-Trifluoro-ethyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | 48% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)CC(F)(F)F | C15H18F3NO2
